US07429597B2
6-chloro-4-{1-(5-chloro-1H-benzimidazol-2-yl)-3-[(1-oxa-3,8-diaza-spiro[4.5]decan-2-on-8-yl)-carbonyl]-propyl-amino}-7-(pyrrolidin-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 61 from 6-chloro-4-[1-(1-tert.-butyloxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonyl-propyl-amino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline and 1-oxa-3,8-diaza-spiro[4.5]decan-2-one with TBTU in acetonitrile/tetrahydrofuran and subsequent reaction with trifluoroacetic acid.

reactant | 6-chloro-4-[1-(1-tert.-butyloxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonyl-propyl-amino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)NC(CCC(=O)O)C1=NC2=C(N1C(=O)OC(C)(C)C)C=CC(=C2)Cl | C29H30Cl2N6O5
reactant | 1-oxa-3,8-diaza-spiro[4.5]decan-2-one | O1C(NCC12CCNCC2)=O | C7H12N2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile tetrahydrofuran | C(C)#N.O1CCCC1
product | 6-chloro-4-{1-(5-chloro-1H-benzimidazol-2-yl)-3-[(1-oxa-3,8-diaza-spiro[4.5]decan-2-on-8-yl)-carbonyl]-propyl-amino}-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)NC(CCC(=O)N1CCC2(CNC(O2)=O)CC1)C1=NC2=C(N1)C=CC(=C2)Cl | C31H32Cl2N8O4
